.subckt fsdphq_ffs_x1 Q CK D SI SE EN VDD VSS
XFSDPHQ_FFS_sei_P0 FSDPHQ_FFS_se_b SE VDD VDD pmos w=2u l=100n
XFSDPHQ_FFS_sei_N0 FSDPHQ_FFS_se_b SE VSS VSS nmos w=1u l=100n
XFSDPHQ_FFS_smx_MP0 FSDPHQ_FFS_din SE D VDD pmos w=2u l=100n
XFSDPHQ_FFS_smx_MN0 FSDPHQ_FFS_din FSDPHQ_FFS_se_b D VSS nmos w=1u l=100n
XFSDPHQ_FFS_smx_MP1 FSDPHQ_FFS_din FSDPHQ_FFS_se_b SI VDD pmos w=2u l=100n
XFSDPHQ_FFS_smx_MN1 FSDPHQ_FFS_din SE SI VSS nmos w=1u l=100n
XFSDPHQ_FFS_eni_P0 FSDPHQ_FFS_en_b EN VDD VDD pmos w=2u l=100n
XFSDPHQ_FFS_eni_N0 FSDPHQ_FFS_en_b EN VSS VSS nmos w=1u l=100n
XFSDPHQ_FFS_emx_MP0 FSDPHQ_FFS_ed EN Q VDD pmos w=2u l=100n
XFSDPHQ_FFS_emx_MN0 FSDPHQ_FFS_ed FSDPHQ_FFS_en_b Q VSS nmos w=1u l=100n
XFSDPHQ_FFS_emx_MP1 FSDPHQ_FFS_ed FSDPHQ_FFS_en_b FSDPHQ_FFS_din VDD pmos w=2u l=100n
XFSDPHQ_FFS_emx_MN1 FSDPHQ_FFS_ed EN FSDPHQ_FFS_din VSS nmos w=1u l=100n
XFSDPHQ_FFS_ck_P0 FSDPHQ_FFS_ck_b CK VDD VDD pmos w=2u l=100n
XFSDPHQ_FFS_ck_N0 FSDPHQ_FFS_ck_b CK VSS VSS nmos w=1u l=100n
XFSDPHQ_FFS_m_in_P FSDPHQ_FFS_m_n1 CK FSDPHQ_FFS_ed VDD pmos w=2u l=100n
XFSDPHQ_FFS_m_in_N FSDPHQ_FFS_m_n1 FSDPHQ_FFS_ck_b FSDPHQ_FFS_ed VSS nmos w=1u l=100n
XFSDPHQ_FFS_m_i1_P0 FSDPHQ_FFS_m_n2 FSDPHQ_FFS_m_n1 VDD VDD pmos w=2u l=100n
XFSDPHQ_FFS_m_i1_N0 FSDPHQ_FFS_m_n2 FSDPHQ_FFS_m_n1 VSS VSS nmos w=1u l=100n
XFSDPHQ_FFS_m_i2_P0 FSDPHQ_FFS_m_n1 FSDPHQ_FFS_m_n2 VDD VDD pmos w=2u l=100n
XFSDPHQ_FFS_m_i2_N0 FSDPHQ_FFS_m_n1 FSDPHQ_FFS_m_n2 VSS VSS nmos w=1u l=100n
XFSDPHQ_FFS_m_fb_P FSDPHQ_FFS_m_n1 FSDPHQ_FFS_ck_b FSDPHQ_FFS_m_n2 VDD pmos w=2u l=100n
XFSDPHQ_FFS_m_fb_N FSDPHQ_FFS_m_n1 CK FSDPHQ_FFS_m_n2 VSS nmos w=1u l=100n
XFSDPHQ_FFS_m_o_P0 FSDPHQ_FFS_qm FSDPHQ_FFS_m_n2 VDD VDD pmos w=2u l=100n
XFSDPHQ_FFS_m_o_N0 FSDPHQ_FFS_qm FSDPHQ_FFS_m_n2 VSS VSS nmos w=1u l=100n
XFSDPHQ_FFS_s_in_P FSDPHQ_FFS_s_n1 FSDPHQ_FFS_ck_b FSDPHQ_FFS_qm VDD pmos w=2u l=100n
XFSDPHQ_FFS_s_in_N FSDPHQ_FFS_s_n1 CK FSDPHQ_FFS_qm VSS nmos w=1u l=100n
XFSDPHQ_FFS_s_i1_P0 FSDPHQ_FFS_s_n2 FSDPHQ_FFS_s_n1 VDD VDD pmos w=2u l=100n
XFSDPHQ_FFS_s_i1_N0 FSDPHQ_FFS_s_n2 FSDPHQ_FFS_s_n1 VSS VSS nmos w=1u l=100n
XFSDPHQ_FFS_s_i2_P0 FSDPHQ_FFS_s_n1 FSDPHQ_FFS_s_n2 VDD VDD pmos w=2u l=100n
XFSDPHQ_FFS_s_i2_N0 FSDPHQ_FFS_s_n1 FSDPHQ_FFS_s_n2 VSS VSS nmos w=1u l=100n
XFSDPHQ_FFS_s_fb_P FSDPHQ_FFS_s_n1 CK FSDPHQ_FFS_s_n2 VDD pmos w=2u l=100n
XFSDPHQ_FFS_s_fb_N FSDPHQ_FFS_s_n1 FSDPHQ_FFS_ck_b FSDPHQ_FFS_s_n2 VSS nmos w=1u l=100n
XFSDPHQ_FFS_s_o_P0 Q FSDPHQ_FFS_s_n2 VDD VDD pmos w=2u l=100n
XFSDPHQ_FFS_s_o_N0 Q FSDPHQ_FFS_s_n2 VSS VSS nmos w=1u l=100n
.ends fsdphq_ffs_x1
